US06369075B1
7-Chloro-quinoline-3-carboxylic acid ethyl ester (1 g, 4.24 mmol, 1 equiv), dry sodium t-butoxide (571 mg, 5.94 mmol, 1.4 equiv), tris(dibenzylideneacetone)dipalladium (19.5 mg, 21.2 μmol, 1 mol % equiv), and 2-(dicylcohexylphosphino)biphenyl (30 mg, 84.8 μmol, 4 mol % equiv) were placed in a round bottom flask with a magnetic stir bar. The flask was flushed with nitrogen. Benzophenone imine (783 μL, 4.66 mmol, 1.1 equiv) and toluene (8.5 mL) were added. The flask was fitted with a reflux condenser and the reaction was heated at 100° C. for 12 hours. The reaction mixture was cooled to room temperature and diluted with ethyl acetate (20 mL). The reaction mixture was washed with a saturated sodium bicarbonate solution (25 mL), saturated ammonium chloride solution (25 mL), and brine (25 mL). The organic layer was dried over sodium sulfate and then treated with activated charcoal (Darco G-60®) (1 g). The mixture was filtered through diatomaceous earth and concentrated. The residue was stirred in a minimal amount of isopropanol (about 2 mL) to provide 7-(benzhydrylidene-amino)-quinoline-3-carboxylic acid ethyl ester (199 mg, 12%) as a pale yellow solid.

reactant | 7-Chloro-quinoline-3-carboxylic acid ethyl ester | 4.24 mmol, 1 g, 1 equiv | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1)Cl | C12H10ClNO2
reactant | sodium t-butoxide | 5.94 mmol, 571 mg, 1.4 equiv | CC(C)([O-])C.[Na+]
reactant | 2-(dicylcohexylphosphino)biphenyl | 84.8 μmol, 30 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | Benzophenone imine | 4.66 mmol, 783 μL, 1.1 equiv | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 21.2 μmol, 19.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 8.5 mL | C1(=CC=CC=C1)C | C7H8
product | 7-(benzhydrylidene-amino)-quinoline-3-carboxylic acid ethyl ester | 199 mg, 12% | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H20N2O2
